US08309550B2
4-(1-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-N-(3-nitrophenyl)pyrimidin-2-amine (Compound 14)
Prepared by treatment of (E)-3-(dimethylamino)-1-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one and 1-(3-nitrophenyl)guanidine hydrochloride. 1H-NMR (DMSO-d6) δ: 1.49 (t, 3H, J=7.2 Hz, CH3), 4.37 (q, 2H, J=7.6 Hz, CH2), 7.26 (m, 1H, Ar—H), 7.39 (d, 1H, J=5.2 Hz, Pyrimidin-H), 7.61 (t, 1H, J=8.0 Hz, Ph-H), 7.83 (m, 1H, Ar—H), 8.12 (d, 1H, J=8.0 Hz, Ph-H), 8.38 (m, 1H, Ar—H), 8.49 (d, 1H, J=5.2 Hz, Pyrimidin-H), 8.62 (s, 1H, Ph-H), 8.92 (d, 1H, J=8.0 Hz, Ph-H), 9.01 (s, 1H, Ar—H). MS (ESI+) m/z 361.1308 (M+H)+.

reactant | (E)-3-(dimethylamino)-1-(1-ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)prop-2-en-1-one | CN(/C=C/C(=O)C1=CN(C2=NC=CC=C21)CC)C | C14H17N3O
reactant | 1-(3-nitrophenyl)guanidine hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
product | 4-(1-Ethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-N-(3-nitrophenyl)pyrimidin-2-amine | C(C)N1C=C(C=2C1=NC=CC2)C2=NC(=NC=C2)NC2=CC(=CC=C2)[N+](=O)[O-] | C19H16N6O2
